US04940730
(vii) Synthesis of 13,14-dihydroxydocosanamide
To an acetone (150 ml) solution consisting of erucamide (2 g), tetraethyl ammonium acetate (250 mg) and a 70% aqueous solution (1.3 ml) of t-BuOOH was added a 0.5% t-BuOH solution (0.5 ml) of osmium tetraoxide. The mixture was stirred at room temperature for five days. To the reaction mixture was added a 10% solution of sodium hydrogensulfite (30 ml), and the mixture was stirred for 30 minutes. The reaction mixture was subjected to filtration to collect crystals, then the crystals were washed with acetone, followed by drying to afford colorless crystals [728 mg (yield 33%)], m.p. 153 to 154° C.

reactant | erucamide | 2 g | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)N | C22H43NO
reactant | tetraethyl ammonium acetate | 250 mg | C(C)(=O)[O-].C(C)[N+](CC)(CC)CC
reactant | t-BuOOH | C(C)(C)(C)OO | C4H10O2
reactant | sodium hydrogensulfite | 30 ml | S(=O)(O)[O-].[Na+]
reactant | t-BuOH | 0.5 ml | CC(C)(C)O | C4H10O
catalyst | osmium tetraoxide | [Os](=O)(=O)(=O)=O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 13,14-dihydroxydocosanamide | yield 33% | OC(CCCCCCCCCCCC(=O)N)C(CCCCCCCC)O | C22H45NO3
